US07989497B2
Step 3: (R)-1-((R)-tetrahydrofuran-2-yl)propan-1-amine
To a solution of tert-butyl (R)-1-((R)-tetrahydrofuran-2-yl)propylcarbamate (2.67 g, 11.64 mmol) in 1,4-dioxane (80 ml) was added 5M HCl (5 ml). The reaction was then heated at 70° C. for 5.5 hours and after cooling to RT, the mixture was concentrated in vacuo to afford the title compound; 1H NMR (MeOD) δ1.09 (3H, t, CH3), 1.7 (3H, m), 2.0 (2H, m), 2.15 (1H, m), 3.0 (1H, m), 3.88 (3H, m).

reactant | tert-butyl (R)-1-((R)-tetrahydrofuran-2-yl)propylcarbamate | 11.64 mmol, 2.67 g | O1[C@H](CCC1)[C@@H](CC)NC(OC(C)(C)C)=O | C12H23NO3
reactant | HCl | 5M, 5 ml | Cl | ClH
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | (R)-1-((R)-tetrahydrofuran-2-yl)propan-1-amine | O1[C@H](CCC1)[C@@H](CC)N | C7H15NO
